US04918074
1.5 ml of thionyl chloride is added dropwise to a solution of 3 g of 6-carbamoyl-7-methyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine in 30 ml of dimethylformamide. After stirring for an hour, the mixture is poured into chloroform and washed with sodium bicarbonate solution followed by passing the mixture through a column containing 50 g of silica gel with a mixture of dichloromethane and ethanol as an eluent. Upon allowing the eluates to stand, crystals are precipitated and collected by filtration to give 1.1 g of 6-cyano-7-methyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine, melting at 278°-280° C. with decomposition.

reactant | thionyl chloride | 1.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-carbamoyl-7-methyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine | 3 g | C(N)(=O)C1=C(NC=2N(C1C1=CC(=CC=C1)[N+](=O)[O-])C=CN2)C | C14H13N5O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-cyano-7-methyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine | 1.1 g | C(#N)C1=C(NC=2N(C1C1=CC(=CC=C1)[N+](=O)[O-])C=CN2)C | C14H11N5O2
